US09056876B2
g. PREPARATION OF 7-CHLORO-6,8-DIMETHYL-1H-PYRAZOLO[3′,4′:4,5]THIENO[2,3-B]PYRIDIN-3-AMINE
The 3-bromo-5-chloro-4,6-dimethylthieno[2,3-b]pyridine-2-carbonitrile (0.273 g, 0.91 mmol) was added to a microwave reaction vial. The DMSO (4 mL) was added, followed by hydrazine (0.085 mL, 2.72 mmol). The vial was sealed and irradiated at 120 degrees for 10 minutes. LC\MS shows no remaining starting material. The reaction was cooled to RT, then poured into 50 mL of ice-water. The ice was allowed to melt and resulting slurry was poured through filter paper, washing the solid with cold water (3×). The solid was then dried under vacuum at 60° C. to give 220 mg (96%) of the product as a light yellow solid. 1H NMR (400 MHz, DMSO-d6): δ ppm 5.53 (bs, 2H), 2.74 (s, 3H), 2.61 (s, 3H). LC/MS: RT=0.58 min., m/z=253.0 [M+H]+.

reactant | 3-bromo-5-chloro-4,6-dimethylthieno[2,3-b]pyridine-2-carbonitrile | 0.91 mmol, 0.273 g | BrC1=C(SC2=NC(=C(C(=C21)C)Cl)C)C#N | C10H6BrClN2S
reactant | hydrazine | 2.72 mmol, 0.085 mL | NN | H4N2
solvent | DMSO | 4 mL | CS(=O)C | C2H6OS
product | 7-CHLORO-6,8-DIMETHYL-1H-PYRAZOLO[3′,4′:4,5]THIENO[2,3-B]PYRIDIN-3-AMINE | 220 mg, 96% | ClC=1C(=C2C(=NC1C)SC1=C2NN=C1N)C | C10H9ClN4S
